US07915424B2
5-Vinylnicotinonitrile
Add bis(triphenylphosphine)palladium (II) dichloride (0.460 g, 0.66 mmol) and tributyl-vinyl-stannane (7.2 mL, 24.6 mmol) to a solution of 5-bromonicotinonitrile (3.0 g, 16.4 mmol) in toluene (50 mL) and stir at 110° C. for 150 min. Add an aqueous saturated solution of ammonium chloride and ethyl acetate and separate the layers. Wash the organic layer twice with an aqueous saturated solution of potassium fluoride and once with water. Dry (sodium sulfate), filter, and concentrate. Purify the residue by silica gel chromatography, eluting with 3:1 hexane:ethyl acetate, to give the title compound (1.5 g, 70%).

reactant | tributyl-vinyl-stannane | 24.6 mmol, 7.2 mL | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | 5-bromonicotinonitrile | 16.4 mmol, 3.0 g | BrC=1C=NC=C(C#N)C1 | C6H3BrN2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium | 0.66 mmol, 0.460 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 5-Vinylnicotinonitrile | 1.5 g, 70% | C(=C)C=1C=NC=C(C#N)C1 | C8H6N2
